US05114936
In 30 ml pyridine was dissolved 4-hydroxy-5-(2-hydroxyethyl)-3-phenyl-4,5,6,7-tetrahydro-1,2-benzisoxazole (2.1 g) and the mixture was cooled to 0° C. Tosyl chloride (1.54 g) was added and the solution was stirred at 0° C. for 30 minutes. The reaction mixture was poured into ice water, then extracted four times with ether. The mixture was dried (Na2SO4) and then concentrated at room temperature to yield 2.67 g of 3-phenyl-5-(2-tosyloxyethyl)-4-hydroxy-4,5,6,7-tetrahydro-1,2-benzisoxazole.

reactant | 4-hydroxy-5-(2-hydroxyethyl)-3-phenyl-4,5,6,7-tetrahydro-1,2-benzisoxazole | 2.1 g | OC1C(CCC2=C1C(=NO2)C2=CC=CC=C2)CCO | C15H17NO3
reactant | Tosyl chloride | 1.54 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 3-phenyl-5-(2-tosyloxyethyl)-4-hydroxy-4,5,6,7-tetrahydro-1,2-benzisoxazole | 2.67 g | C1(=CC=CC=C1)C1=NOC2=C1C(C(CC2)CCOS(=O)(=O)C2=CC=C(C)C=C2)O | C22H23NO5S
